US03998834
A mixture of 101.5 parts of ethyl 4-anilino-1-benzylisonipecotate and 292.8 parts of propanoic acid anhydride is stirred and refluxed for 6 hours. The reaction mixture is poured onto crushed ice and the whole is alkalized with ammonium hydroxide. The product is extracted with trichloromethane. The extract is washed successively with a diluted ammonium hydroxide solution and with water, dried, filtered and evaporated. The residue is converted into the ethanedioate salt in 400 parts of 2-propanol. The salt is filtered off and crystallized three times from 2-propanol, yielding ethyl 4-[N-(1-oxopropyl)-N-phenylamino]-1-(phenylmethyl)-4-piperidinecarboxylate ethanedioate; mp. 196° C.

reactant | ethyl 4-anilino-1-benzylisonipecotate | N(C1=CC=CC=C1)C1(CCN(CC1)CC1=CC=CC=C1)C(=O)OCC | C21H26N2O2
reactant | propanoic acid anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | ammonium hydroxide | [OH-].[NH4+]
product | ethyl 4-[N-(1-oxopropyl)-N-phenylamino]-1-(phenylmethyl)-4-piperidinecarboxylate ethanedioate | C(C(=O)O)(=O)O.O=C(CC)N(C1=CC=CC=C1)C1(CCN(CC1)CC1=CC=CC=C1)C(=O)OCC | InChI=1S/C24H30N2O3.C2H2O4/c1-3-22(27)26(21-13-9-6-10-14-21)24(23(28)29-4-2)15-17-25(18-16-24)19-20-11-7-5-8-12-20;3-1(4)2(5)6/h5-14H,3-4,15-19H2,1-2H3;(H,3,4)(H,5,6)
